US06355641B1
A solution of di-tert-butyl dicarbonate (7.85 g, 36 mmol) in dichloromethane (100 mL) was added to a solution of N,N′-dimethyl-1,6-hexanediamine (7.2 g, 50 mmol) in dichloromethane (250 mL) solution at −78° C. under nitrogen. After addition was complete, the cool-bath was removed and the resulting mixture was stirred (6 h) and warmed up to room temperature. The reaction mixture was washed with water (120 mL), the dichloromethane layer was separated, dried over anhydrous magnesium sulfate, filtered and concentrated under reduced pressure. The residue was purified by chromatography on silica gel (eluent dichloromethane:methanol: Et3N 90:8:2) to yield N-tert-butoxycarbonyl-N,N′-dimethyl-1,6-hexanediamine.

reactant | di-tert-butyl dicarbonate | 36 mmol, 7.85 g | C(=O)(OC(C)(C)C)OC(=O)OC(C)(C)C | C10H18O5
reactant | N,N′-dimethyl-1,6-hexanediamine | 50 mmol, 7.2 g | CNCCCCCCNC | C8H20N2
solvent | dichloromethane | 100 mL | ClCCl | CH2Cl2
solvent | dichloromethane | 250 mL | ClCCl | CH2Cl2
product | N-tert-butoxycarbonyl-N,N′-dimethyl-1,6-hexanediamine | C(C)(C)(C)OC(=O)N(CCCCCCNC)C | C13H28N2O2
